US09102614B2
Step 4: Preparation of 2-bromo-1-(4-chlorophenyl)-6-methoxy-3-methylnaphthalene:
A solution of 3-bromo-4-(4-chlorophenyl)-7-methoxy-2-methyl-1,2-dihydronaphthalene (5.5 g, 15.1 mmol) in toluene (100 mL) was vacuum flushed with Ar. DDQ (5.2 g, 22.7 mmol) was added and the mixture heated to reflux for 1.5 h. The heterogeneous red-brown mixture was cooled to room temperature and the toluene removed in vacuo. The resulting residue was taken up in DCM (300 mL) and filtered to remove precipitated DDHQ. The resulting mother liquor was absorbed on silica gel and purified by Yamazen column chromatography (15% DCM/Hex) to afford 5.21 g (95%) of the title compound as an amorphous yellow solid. 1H-NMR: 400 MHz, (CDCl3) δ: 7.66 (s, 1H); 7.49 (br d, J=2 Hz, 2H); 7.24-7.18 (m, 3H); 7.07 (d, J=2 Hz, 1H); 6.97 (dd, J=9.2, 2 Hz, 1H); 3.91 (s, 3H); 2.60 (s, 3H).

reactant | 3-bromo-4-(4-chlorophenyl)-7-methoxy-2-methyl-1,2-dihydronaphthalene | 15.1 mmol, 5.5 g | BrC=1C(CC2=CC(=CC=C2C1C1=CC=C(C=C1)Cl)OC)C | C18H16BrClO
reactant | DDQ | 22.7 mmol, 5.2 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-1-(4-chlorophenyl)-6-methoxy-3-methylnaphthalene | 5.21 g, 95% | BrC1=C(C2=CC=C(C=C2C=C1C)OC)C1=CC=C(C=C1)Cl | C18H14BrClO
